US08686024B2
(3) Synthesis of N-methyl-N-(4-tetrahydropyranylmethyl)amine monohydrochloride
To a solution of tert-butyl N-methyl-N-(4-tetrahydropyranylmethyl)carbamate (600 mg, 2.6 mmol) in 4.0 mL of ethyl acetate was added 4 M HCl-ethyl acetate (4 mL). After being stirred at room temperature for 1.5 h, the reaction mixture was concentrated in vacuo, and the residue was rinsed with hexane to obtain the title compound (356 mg, 82%).

reactant | tert-butyl N-methyl-N-(4-tetrahydropyranylmethyl)carbamate | 2.6 mmol, 600 mg | CN(C(OC(C)(C)C)=O)CC1CCOCC1 | C12H23NO3
reactant | HCl ethyl acetate | 4 M, 4 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 4.0 mL | C(C)(=O)OCC | C4H8O2
product | N-methyl-N-(4-tetrahydropyranylmethyl)amine monohydrochloride | 356 mg, 82% | Cl.CNCC1CCOCC1 | InChI=1S/C7H15NO.ClH/c1-8-6-7-2-4-9-5-3-7;/h7-8H,2-6H2,1H3;1H
